US07820654B2
N4-(3-Chloro-4-methoxy-phenyl)-6-(4-methanesulfonyl-phenyl)-pyrimidine-2,4-diamine was prepared from compound N4-(3-chloro-4-methoxy-phenyl)-6-(4-methylsulfanyl-phenyl)-pyrimidine-2,4-diamine, in aqueous acetone (3:1) using oxone (2KHSO5.KHSO4.K2SO4) as an oxidizing agent.

reactant | N4-(3-chloro-4-methoxy-phenyl)-6-(4-methylsulfanyl-phenyl)-pyrimidine-2,4-diamine | ClC=1C=C(C=CC1OC)NC1=NC(=NC(=C1)C1=CC=C(C=C1)SC)N | C18H17ClN4OS
reactant | oxone | OOS(=O)[O-].[K+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | N4-(3-Chloro-4-methoxy-phenyl)-6-(4-methanesulfonyl-phenyl)-pyrimidine-2,4-diamine | ClC=1C=C(C=CC1OC)NC1=NC(=NC(=C1)C1=CC=C(C=C1)S(=O)(=O)C)N | C18H17ClN4O3S
